US04629787
1-(1-Ethoxycarbonylethyl)-3-(S)-[(1-ethoxycarbonyl-3-phenylpropyl)amino]perhydroazepin-2-one
A solution of 1-(1-carboxyethyl)-3-(S)-[(1-ethoxycarbonyl-3-phenylpropyl)amino]perhydroazepin-2-one (2.94 g.), a diastereoisomeric mixture prepared as in Example 13 from Isomer A of Example 12, with 40 ml. of ethanol was cooled to 0° and saturated with hydrogen chloride. After standing overnight at room temperature the solution was concentrated under vacuum. Dissolution in water, adjustment to pH 7, extraction with ether and concentration gave product as a colorless oil, weight 2.87 g. Tlc on silica gel indicated the presence of two diastereomers. If desired, the isomers may be separated by chromatography on silica gel and elution with hexane-ethyl acetate.

reactant | 1-(1-carboxyethyl)-3-(S)-[(1-ethoxycarbonyl-3-phenylpropyl)amino]perhydroazepin-2-one | 2.94 g | C(=O)(O)C(C)N1C([C@H](CCCC1)NC(CCC1=CC=CC=C1)C(=O)OCC)=O | C21H30N2O5
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | 1-(1-Ethoxycarbonylethyl)-3-(S)-[(1-ethoxycarbonyl-3-phenylpropyl)amino]perhydroazepin-2-one | C(C)OC(=O)C(C)N1C([C@H](CCCC1)NC(CCC1=CC=CC=C1)C(=O)OCC)=O | C23H34N2O5
